US07919468B2
N-Boc-Tyr(Bn)-Leu-Trp-NHPh:
compound A424P. Same procedure as above with Trp-NHPh (67.6 mg, 0.242 mmol), N-Boc-Tyr(Bn)-Leu-OH (117 mg, 0.242 mmol), EDC (49 mg, 0.25 mmol) and HOBt (35 mg, 0.25 mmol) in CH2Cl2/DMF (3.6 mL, 1/1). The crude residue was dissolved in ether and precipitated with heptane to give a beige solid (135.6 mg, 75%). 1H NMR (300 MHz, DMSO-d6) δ 0.83 (d, 3H, J=6.4 Hz, CH3), 0.87 (d, 3H, J=6.4 Hz, CH3), 1.22-1.44 (m, 2H, CH2 Leu), 1.30 (s, 9H, (CH3)3), 1.44 (m, 1H, CH Leu), 2.46-2.89 (m, 2H, CH2), 3.13 (m, 2H, CH2), 4.12 (m, 1H, CHα), 4.38 (m, 1H, CHα), 4.70 (m, 1H, CHα), 5.02 (s, 2H, CH2 (Bn)), 6.87-7.58 (m, 20H, 19 aromatic H and NH Boc), 7.94 (d, J=8.2 Hz, 1H), 8.17 (d, J=7.5 Hz, 1H), 10.0 (s, 1H, NH), 10.83 (s, 1H, NH). 13C NMR (75 MHz, DMSO-d6) δ 21.5, 23.1, 23.9 (CH—(CH3)2), 27.7 (CH2 Trp), 28.1 ((CH3)3), 36.2, 40.9 (CH2 Tyr, CH2 Leu), 50.9, 54.1, 55.7 (CHα Tyr, Leu, Tip), 69.0 (CH2 (Bn)), 78.0 (C(CH3)3), 109.6, 111.2, 114.2, 118.2, 118.4, 119.3, 120.8, 123.3, 123.4, 127.3, 127.6, 127.7, 128.3, 128.6, 130.1, 130.3, 135.9, 137.2, 138.8 (25 aromatic C), 155.2, 156.8 (Car-O, CO carbamate), 170, 171.6, 171.9 (3 CO amide). Anal. Calcd. for C44H51N5O6: C, 70.85; H, 6.89; N, 9.39. Found: C, 70.52; H, 7.10; N, 9.33.

reactant | Trp-NHPh | 0.242 mmol, 67.6 mg | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NC1=CC=CC=C1 | C17H17N3O
reactant | N-Boc-Tyr(Bn)-Leu-OH | 0.242 mmol, 117 mg | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C27H36N2O6
reactant | EDC | 0.25 mmol, 49 mg
reactant | HOBt | 0.25 mmol, 35 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 DMF | 3.6 mL | C(Cl)Cl.CN(C)C=O
solvent | ether | CCOCC | C4H10O
product | N-Boc-Tyr(Bn)-Leu-Trp-NHPh | 135.6 mg, 75% | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NC1=CC=CC=C1)C(=O)OC(C)(C)C | C44H51N5O6
